US09212187B2
Synthesis of {N-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]-N-(pyridin-4-ylmethyl)carbamoyloxy}acetic acid ethyl ester
Potassium carbonate (1.66 g) was added to a DMF solution (50 ml) of 1-methyl-6-{3-[(pyridin-4-ylmethyl)amino]propoxy}-1H-quinolin-2-one (1.5 g). The mixture was cooled to 0° C., and ethyl bromoacetate (1.16 ml) was added to the mixture and stirred at room temperature overnight. The reaction mixture was added to ice water, and extraction with ethyl acetate was performed. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: methanol=20:1→10:1). The purified product was condensed under reduced pressure. The residue was recrystallized from ether, and dried to give the title compound(0.55 g) as a white powder.

reactant | Potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | 1-methyl-6-{3-[(pyridin-4-ylmethyl)amino]propoxy}-1H-quinolin-2-one | 1.5 g | CN1C(C=CC2=CC(=CC=C12)OCCCNCC1=CC=NC=C1)=O | C19H21N3O2
reactant | ethyl bromoacetate | 1.16 ml | BrCC(=O)OCC | C4H7BrO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {N-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]-N-(pyridin-4-ylmethyl)carbamoyloxy}acetic acid ethyl ester | 0.55 g | C(C)OC(COC(N(CC1=CC=NC=C1)CCCOC=1C=C2C=CC(N(C2=CC1)C)=O)=O)=O | C24H27N3O6
